US07820683B2
(2R)-2-{[4-({1-[(6-fluoropyridin-3-yl)methyl]-1H-indazol-5-yl}amino)quinazolin-5-yl]oxy}-N,N-dimethylpropanamide
Using the same procedure as in Example 18, (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide (200 mg, 0.77 mmol) and 1-[(6-fluoropyridin-3-yl)methyl]-1H-indazol-5-amine (204 mg, 0.84 mmol) were reacted to give the title compound as a white solid (225 mg, 60%); NMR Spectrum (CDCl3) 1.73 (d, 3H), 3.07 (s, 3H), 3.15 (s, 3H), 5.44 (q, 1H), 5.59 (s, 2H), 6.84 (m, 2H), 7.37 (d, 1H), 7.8-7.45 (m, 3H), 7.87 (dd, 1H), 8.07 (s, 1H), 8.21 (s, 1H), 8.44 (s, 1H), 8.62 (s, 1H); Mass spectrum 486.

reactant | (2R)—N,N-dimethyl-2-[(4-oxo-3,4-dihydroquinazolin-5-yl)oxy]propanamide | 0.77 mmol, 200 mg | CN(C([C@@H](C)OC1=C2C(NC=NC2=CC=C1)=O)=O)C | C13H15N3O3
reactant | 1-[(6-fluoropyridin-3-yl)methyl]-1H-indazol-5-amine | 0.84 mmol, 204 mg | FC1=CC=C(C=N1)CN1N=CC2=CC(=CC=C12)N | C13H11FN4
product | (2R)-2-{[4-({1-[(6-fluoropyridin-3-yl)methyl]-1H-indazol-5-yl}amino)quinazolin-5-yl]oxy}-N,N-dimethylpropanamide | 225 mg, 60% | FC1=CC=C(C=N1)CN1N=CC2=CC(=CC=C12)NC1=NC=NC2=CC=CC(=C12)O[C@@H](C(=O)N(C)C)C | C26H24FN7O2
